US04833150
2,6-dimethyl-3-(2-phthalimidocarbethoxy)-4-(3-nitrophenyl)-5-carbomethoxy-1,4-dihydropyridine
A solution of 3.02 g (0.02 mol) of 3-nitrobenzaldehyde, 2.36 g (0.02 mol) of methyl-3-aminocrotonate, and 5.72 g (0.02 mol) of 2-phthalimidoethyl acetoacetate in 150 ml of 2-propanol was refluxed for 15 hours under nitrogen. The solvent was removed in vacuo, and the residue was subjected to flash chromatography (silica gel, 1:1 dichloromethane/hexane). The product was isolated and recrystallized from 1:1 dichloromethane/hexane to yield 3.0 g (30%) of a pale yellow solid; m.p. 181.5°-182.5° C. NMR: (CDCl3); δ 2.3 (6H,s), 3.5 (3H,s), 3.9 (2H,m), 4.2 (2H,m), 4.9 (1H,s), 6.0 (1H,s), 7.0-8.0 (8H,m).

reactant | 3-nitrobenzaldehyde | 0.02 mol, 3.02 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl-3-aminocrotonate | 0.02 mol, 2.36 g | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | 2-phthalimidoethyl acetoacetate | 0.02 mol, 5.72 g | C(CC(=O)C)(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
product | 2,6-dimethyl-3-(2-phthalimidocarbethoxy)-4-(3-nitrophenyl)-5-carbomethoxy-1,4-dihydropyridine | 3.0 g, 30% | CC=1NC(=C(C(C1C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OC)C | C26H23N3O8
